US04987135
9 g of fluorosulfonic acid was cooled to -78° C. with dry ice-acetone, 30 ml of 1-pentene was gradually dropwise added thereto under stirring. After completion of the dropwise addition, the stirring was continued at the same temperature for 15 minutes. 100 ml of methylene chloride which was previously cooled to -78° C., was added thereto, and then 15 g of 2-nitrobenzamide was added thereto at once. Then, the reaction was conducted for 12 hours under stirring while the temperature of the solution was returned to room temperature. After completion of the reaction, the reaction solution was poured into a mixture of 250 ml of a 1N sodium hydroxide aqueous solution and 100 ml of methylene chloride, which was cooled to 0° C., and then the mixture was vigorously stirred for 10 minutes. The reaction solution was extracted, and the extract was washed with water and then dried over Glauber's salt. After distillation of the solvent, the residue was purified by silica gel column chromatography to obtain 0.3 g of oily 1-methylbutyl 2-nitrobenzimidate (Intermediate Compound No. 63).

reactant | fluorosulfonic acid | 9 g | FS(=O)(=O)O | FHO3S
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 1-pentene | 30 ml | C=CCCC | C5H10
reactant | 2-nitrobenzamide | 15 g | [N+](=O)([O-])C1=C(C(=O)N)C=CC=C1 | C7H6N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-methylbutyl 2-nitrobenzimidate | 0.3 g | [N+](=O)([O-])C1=C(C(OC(CCC)C)=N)C=CC=C1 | C12H16N2O3
